US06878831B2
To a mixture of N-[4-hydroxy-3-[2-methyl-1-(4-methylphenyl)-1-propenyl]-2,5,6-trimethylphenyl]formamide (740 g) and isobutanol (2220 ml) was added concentrated hydrochloric acid (2220 ml) under nitrogen stream and the mixture was refluxed under heating for 5 hr. The mixture was stirred at 0 to 5° C. for 1 hr. The crystals were collected by filtration and washed with toluene to give 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine hydrochloride. This hydrochloride was dissolved in a mixed solution of methanol (5180 ml)/water (740 ml) at 55 to 60° C. To the solution was added dropwise 25% aqueous ammonium at 50° C. to adjust the pH to 8.5, and the mixture was stirred for 30 min. The precipitated crystals were collected by filtration and washed with methanol/water (1:1) to give the title compound (587.2 g, yield 87.4%).

reactant | N-[4-hydroxy-3-[2-methyl-1-(4-methylphenyl)-1-propenyl]-2,5,6-trimethylphenyl]formamide | 740 g | OC1=C(C(=C(C(=C1C)C)NC=O)C)C(=C(C)C)C1=CC=C(C=C1)C | C21H25NO2
reactant | hydrochloric acid | 2220 ml | Cl | ClH
solvent | isobutanol | 2220 ml | C(C(C)C)O | C4H10O
product | 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine hydrochloride | Cl.CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | InChI=1S/C20H25NO.ClH/c1-11-7-9-15(10-8-11)17-16-14(4)18(21)12(2)13(3)19(16)22-20(17,5)6;/h7-10,17H,21H2,1-6H3;1H
